US09062028B2
Step B. 1-(5-Bromo-3,4-dihydroquinolin-1(2H)-yl)-4-hydroxybutan-1-one
To a solution of methyl 4-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-oxobutanoate (0.9 g, 2.76 mmol) in MeOH (30 mL) was added sodium borohydride (2.088 g, 55.2 mmol), and the resulting mixture was stirred at room temperature for 30 min. After this time, additional sodium borohydride (1.566 g, 41.4 mmol) was added slowly and the reaction was stirred for another 30 min. The reaction mixture was quenched with HCl and extracted with ethyl acetate. The combined organic layer was dried over anhydrous MgSO4, filtered, and concentrated. The resulting residue was purified by flash chromatography (0-100% ethyl acetate:hexanes then 10% CH3OH:ethyl acetate) to afford the title compound (0.6 g, 73% yield) as a colorless oil. LCMS, [M+H]+=298.0. 1H NMR (400 MHz, MeOD) δ 7.49 (d, J=8.1 Hz, 1H), 7.44 (br. s, 1H), 7.17 (t, J=8.1 Hz, 1H), 3.86-3.80 (m, 2H), 3.61 (t, J=6.2 Hz, 2H), 2.89 (t, J=6.9 Hz, 2H), 2.68 (t, J=7.4 Hz, 2H), 2.10-2.01 (m, 2H), 1.95-1.85 (m, 2H).

reactant | methyl 4-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-oxobutanoate | 2.76 mmol, 0.9 g | BrC1=C2CCCN(C2=CC=C1)C(CCC(=O)OC)=O | C14H16BrNO3
reactant | sodium borohydride | 55.2 mmol, 2.088 g | [BH4-].[Na+]
reactant | sodium borohydride | 41.4 mmol, 1.566 g | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 30 mL | CO | CH4O
product | 1-(5-Bromo-3,4-dihydroquinolin-1(2H)-yl)-4-hydroxybutan-1-one | 0.6 g, 73% yield | BrC1=C2CCCN(C2=CC=C1)C(CCCO)=O | C13H16BrNO2
